US04161538
2-[4-(2-Hydroxyiminocyclopentan-1-ylmethyl)phenyl]propionic Acid
To a solution of 2.0 g of hydroxyiminocyclopentane in 30 ml of tetrahydrofuran was added 28 ml of 15% n-hexane solution of n-butyllithium at room temperature. After the mixture was stirred for 30 minutes at the same temperature, a solution of 6.0 g of ethyl 2-(4-iodomethylphenyl)propionate in 20 ml of tetrahydrofuran was added and stirring was continued for further 10 minutes at room temperature. The reaction mixture was poured into a mixture of 80 ml of ice-water and 20 ml of concentrated hydrochloric acid, extracted with ether, the solvent removed by distillation to afford a residue, to which 1.0 g of sodium hydroxide and 40 ml of methanol were added and the mixture was allowed to stand at room temperature overnight. To the reaction mixture was added 30 ml of water, methanol was removed by distillation, and the residual aqueous layer was shaken with ether and then acidified with hydrochloric acid. Extraction of the acidified layer with ether and decoloration of the product through a silica gel column afforded 2.8 g of the desired compound, which by recrystallization from a mixture of ether and n-hexane yielded colorless crystals, m.p. 146°-148° C.

reactant | hydroxyiminocyclopentane | 2.0 g | ON=C1CCCC1 | C5H9NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl 2-(4-iodomethylphenyl)propionate | 6.0 g | ICC1=CC=C(C=C1)C(C(=O)OCC)C | C12H15IO2
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | water | 30 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
solvent | n-hexane | 28 ml | CCCCCC | C6H14
product | 2-[4-(2-Hydroxyiminocyclopentan-1-ylmethyl)phenyl]propionic Acid | 2.8 g | ON=C1C(CCC1)CC1=CC=C(C=C1)C(C(=O)O)C | C15H19NO3
